US09447106B2
To a solution of 7-(3-aminophenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide (4 mg, 0.01 mmol) in DCE (2 mL) was added active MnO2 (100 mg, 1.15 mmol). The mixture was stirred at 75° C. for 2 hr and filtered. The filtrate was purified by Pre-TLC (DCM/CH3OH=10/1) to afford 2 mg (50%) of 7-(3-aminophenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide as a yellow solid. 1H NMR (400 MHz, CD3OD-d4 and CDCl3-d1) δ 8.62 (d, J=4.4 Hz, 1H), 7.88 (d, J=8.8 Hz, 2H), 7.41-7.39 (m, 2H), 7.31-7.26 (m, 3H), 7.11 (d, J=4.4 Hz, 1H), 7.10-7.04 (m, 1H), 7.01-6.97 (m, 4H), 6.90-6.86 (m, 1H).

reactant | 7-(3-aminophenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.01 mmol, 4 mg | NC=1C=C(C=CC1)C1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H23N5O2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
catalyst | MnO2 | 1.15 mmol, 100 mg | O=[Mn]=O
product | 7-(3-aminophenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 2 mg, 50% | NC=1C=C(C=CC1)C1=CC=NC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H19N5O2
